US06448281B1
Carbonic Acid 4-((S)-2-tert-Butoxycarbonylamino-4-diazo-3-oxo-butyl)-phenyl Ester tert-Butyl Ester
N,O-Bis-Boc-(S)-tyrosine (6.00 g, 15.73 mmol) was dissolved in THF (40 mL), the solution stirred under an argon atmosphere and cooled in an ice bath. Isobutyl chloroformate (3.0 6mL, 23.59 mmol) was added followed by DIEA (8.22 mL, 47.19 mmol). Additional isobutyl chloroformate (1 mL) was added after 1.5 and 2.5 h. To the cold suspension was then added a ca 0.6M Et2O solution of diazomethane (80 mL) by portions. After 15 min. of stirring, nitrogen was diffused in the solution for 0.5 hr. The solvent was evaporated, the residue taken into EtOAc (75 ml) and the solution washed with 0.5M aqueous citric acid (2×50 mL), 5% aqueous sodium bicarbonate (2×50 mL) and brine (50 mL). After drying (MgSO4) and evaporation of the solvent under reduced pressure, the residue was purified by flash chromatography (20% EtOAc/hexane) to give the title compound (5.52 g) of a yellowish solid.

reactant | N,O-Bis-Boc-(S)-tyrosine | 15.73 mmol, 6.00 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OC(=O)OC(C)(C)C)C(=O)O | C19H27NO7
reactant | Isobutyl chloroformate | 23.59 mmol, 6mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | DIEA | 47.19 mmol, 8.22 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isobutyl chloroformate | 1 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | diazomethane | 80 mL | [N+](=[N-])=C | CH2N2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | Et2O | ca 0.6M | CCOCC | C4H10O
product | Carbonic Acid 4-((S)-2-tert-Butoxycarbonylamino-4-diazo-3-oxo-butyl)-phenyl Ester tert-Butyl Ester | 5.52 g | C(C)(C)(C)OC(OC1=CC=C(C=C1)C[C@@H](C(C=[N+]=[N-])=O)NC(=O)OC(C)(C)C)=O | C20H27N3O6
